US04140775
In the manner given in Example 1B, 1-(2,5-dichlorophenyl)-4-(p-nitrobenzyl)piperazine is reduced with aqueous titanium trichloride to give 1-(2,5-dichlorophenyl)-4-[(4-aminophenyl)methyl]piperazine.

reactant | 1-(2,5-dichlorophenyl)-4-(p-nitrobenzyl)piperazine | ClC1=C(C=C(C=C1)Cl)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H17Cl2N3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(2,5-dichlorophenyl)-4-[(4-aminophenyl)methyl]piperazine | ClC1=C(C=C(C=C1)Cl)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H19Cl2N3
